US04730006
In a 2 L one-neck flask, L-alanine (6.23 g) is stirred for 4 days with 1.1 L of t-butylacetate at room temperature and perchloric acid (70%, 6.65 mL, 7.7. g). The mixture is concentrated to 1/4 of its original volume, and the residue extracted at 0°-5° C. with 0.5N HCl (4×60 mL). The aqueous phase is immediately neutralized with KHCO3 (solid). The pH is adjusted to 13 with 4N NaOH, and the solution extracted with Et2O (4×100 mL). The combined organic layers are washed with bicarbonate solution (2×50 mL), dried (MgSO4), and evaporated. The oily residue is dissolved in 10 mL of Et2O (anh.) and treated with HCl:Et2O under cooling. The precipitated salt is filtered and dried to yield 4 g of L-alanine-t-butyl ester hydrochloride having a m.p. 167° C.; [α]20 =+177 (c=2 in EtOH).

reactant | L-alanine | 6.23 g | N[C@@H](C)C(=O)O | C3H7NO2
reactant | t-butylacetate | 1.1 L | C(C)(C)(C)OC(C)=O | C6H12O2
reactant | perchloric acid | 6.65 mL | Cl(=O)(=O)(=O)O | ClHO4
product | L-alanine-t-butyl ester hydrochloride | 4 g | Cl.C(C)(C)(C)OC([C@@H](N)C)=O | InChI=1S/C7H15NO2.ClH/c1-5(8)6(9)10-7(2,3)4;/h5H,8H2,1-4H3;1H/t5-;/m0./s1
